US04981847
To a solution of 5-benzoyl-3,4-dihydro-2H-1,4-benzoxazine (5.74 g), pyridine (1.9 g) and methylene chloride (100 ml) was dropwise added a solution of bromoacetyl bromide (5.82 g) in methylene chloride (5 ml) at room temperature. After the mixture was stirred for 1.0 hour at the same temperature, water (100 ml) was added thereto under stirring. The organic layer was separated, washed with water, dried over magnesium sulfate and evaporated. The residue was crystallized with a mixture of diisopropyl ether and ethyl acetate. The crystals were collected by filtration to give 4-bromoacetyl-5-benzoyl-3,4-dihydro-2H-1,4-benzoxazine (6.0 g).

reactant | 5-benzoyl-3,4-dihydro-2H-1,4-benzoxazine | 5.74 g | C(C1=CC=CC=C1)(=O)C1=CC=CC2=C1NCCO2 | C15H13NO2
reactant | pyridine | 1.9 g | N1=CC=CC=C1 | C5H5N
reactant | bromoacetyl bromide | 5.82 g | BrCC(=O)Br | C2H2Br2O
reactant | water | 100 ml | O | H2O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-bromoacetyl-5-benzoyl-3,4-dihydro-2H-1,4-benzoxazine | 6.0 g | BrCC(=O)N1CCOC2=C1C(=CC=C2)C(C2=CC=CC=C2)=O | C17H14BrNO3
